US06100292
4-Nitrophenylacetic acid (8.1 g, 45 mmol) and then dicyclohexylcarbodiimide (9.7 g, 47 mmol) were added to a dichloroethane (150 ml) suspension of 1,3-cyclohexanedione (5.00 g, 44.6 mmol) at room temperature, after which 4-dimethylaminopyridine (0.27 g, 2.2 mmol) was added and stirring carried out for 1 hour at 60° C. and then further 4-dimethylaminopyridine (0.54 g, 4.4 mmol) added and stirring carried out for 23 hours at 85° C. The dicyclohexylurea was filtered off while the solution was still warm, then the reaction solution washed with dilute hydrochloric acid (50 ml), after which the aqueous layer was extracted with dichloromethane. After drying with anhydrous sodium sulphate, the solvent was distilled off and separation and purification performed by column chromatography. When recrystallization was performed from ethanol, 3-hydroxy-2-(4-nitrophenylacetyl)-2-cyclohexenone (8.2 g, 67%) was obtained as yellow crystals. Tetrahydrofuran (100 ml), methanol (35 ml) and concentrated hydrochloric acid (10 ml) were added to the compound obtained (2.00 g, 7.3 mmol), then Pd-C (5%, containing 100% of water, 300 mg) added and the atmosphere replaced by hydrogen. The raw material was consumed in 4 hours and then the hydrogen replaced by argon. The precipitate was filtered off, washed with hot methanol, and the filtrate concentrated. When the solid obtained was recrystallized from ethanol, 2-(4-aminophenylacetyl)-3-hydroxy-2-cyclohexenone hydrochloride (1.3 g, 64%) was obtained. A chloroform (15 ml) solution of the compound (500 mg, 1.77 mmol) obtained was ice-cooled and 2-thiopheneacetyl chloride (0.26 ml, 2.1 mmol) added. Next, pyridine (0.44 ml, 5.5 mmol) was added and stirring carried out for 3 hours. After returning to room temperature, stirring was carried out for 15 hours, then dilute hydrochloric acid added and extraction performed with dichloromethane. The organic layer was dried with anhydrous sodium sulphate, and the solvent distilled off. When recrystallization was performed from ethanol, Compound 4 (245 mg, 37%) was obtained as pale yellow crystals.

reactant | 4-Nitrophenylacetic acid | 45 mmol, 8.1 g | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)O | C8H7NO4
reactant | dicyclohexylcarbodiimide | 47 mmol, 9.7 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 1,3-cyclohexanedione | 44.6 mmol, 5.00 g | C1(CC(CCC1)=O)=O | C6H8O2
catalyst | 4-dimethylaminopyridine | 2.2 mmol, 0.27 g | CN(C1=CC=NC=C1)C | C7H10N2
catalyst | 4-dimethylaminopyridine | 4.4 mmol, 0.54 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloroethane | 150 ml | ClC(C)Cl | C2H4Cl2
product | 3-hydroxy-2-(4-nitrophenylacetyl)-2-cyclohexenone | 8.2 g, 67% | OC1=C(C(CCC1)=O)C(CC1=CC=C(C=C1)[N+](=O)[O-])=O | C14H13NO5
